US08530667B2
To a solution of 1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione (3 g, 16.6 mmol) in chloroform (8 ml) is added PCl5 portionwise. The reaction mixture is stirred and heated at reflux for 5 hours. The reaction mixture is evaporated to dryness The crude product is purified by flash chromatography on silica gel to give 5-chloro-1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (1.39 g).

reactant | 1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione | 16.6 mmol, 3 g | CC12C3C(CC(C3C(CC1)O2)=O)=O | C10H12O3
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 1.39 g | ClC1=CC(C2C3(CCC(C12)O3)C)=O | C10H11ClO2
